US07935815B2
A solution of 4 N hydrochloric acid in ethyl acetate (12.1 mL) was added to tert-butyl N′-[5-chloro-2-(3-fluorophenyl)pentanoyl]hydrazinecarboxylate (711 mg), and the reaction solution was stirred at room temperature for two hours. The reaction solution was concentrated under reduced pressure to obtain a crude product of 5-chloro-2-(3-fluorophenyl)pentanoic acid hydrazide hydrochloride. A solution of ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate dihydrochloride (576 mg) and triethylamine (1.24 mL) in ethanol (10 mL) was added to a solution of the resulting crude product of 5-chloro-2-(3-fluorophenyl)pentanoic acid hydrazide hydrochloride and triethylamine (1 mL) in ethanol (10 mL), and the reaction solution was stirred at 80° C. in a nitrogen atmosphere for 23 hours. The reaction solution was cooled to room temperature and then the solvent was evaporated under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the resulting residue, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane:ethyl acetate=1:1→ethyl acetate→ethyl acetate:methanol=9:1) and further purified by silica gel column chromatography (elution solvent: ethyl acetate→ethyl acetate:methanol=9:1) to obtain 306 mg of a racemate of the title compound. The resulting racemate (152 mg) was separated by CHIRALPAK™ IA manufactured by Daicel Chemical Industries, Ltd. (2 cm×25 cm; mobile phase: hexane:ethanol=1:1) to obtain a (+)-isomer of the title optically active compound with a retention time of 14 minutes (60 mg; >99% ee) and a (−)-isomer of the title optically active compound with a retention time of 15.5 minutes (61 mg; 92% ee).

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | tert-butyl N′-[5-chloro-2-(3-fluorophenyl)pentanoyl]hydrazinecarboxylate | 711 mg | ClCCCC(C(=O)NNC(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C16H22ClFN2O3
solvent | ethyl acetate | 12.1 mL | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-(3-fluorophenyl)pentanoic acid hydrazide hydrochloride | Cl.ClCCCC(C(=O)NN)C1=CC(=CC=C1)F | InChI=1S/C11H14ClFN2O.ClH/c12-6-2-5-10(11(16)15-14)8-3-1-4-9(13)7-8;/h1,3-4,7,10H,2,5-6,14H2,(H,15,16);1H
